US05695910
To a solution of 2,2-bis(4-hydroxyphenyl)propane (32.0 g, 0.14 mole) and vinyl ethyl ether (80.8 g, 1.12 mole) in 1,4-dioxane (130 ml), pyridinium p-toluenesulfonate (2.8 g) was added and reacted with stirring for 6 hours at 20°25° C. After reaction, ethyl ether (300 ml) and H2O (100 ml) were added to a reaction mixture, stirred for 30 min. at room temperature, and allowed to stand. The organic layer was washed thrice with H2O, dried over anhydrous MgSO4 and evaporated to give 50.8 g of 2,2-bis[4-(1-ethoxyethoxy)phenyl]propane as residual pale yellow oil.

reactant | 2,2-bis(4-hydroxyphenyl)propane | 0.14 mole, 32.0 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | vinyl ethyl ether | 1.12 mole, 80.8 g | C(C)OC=C | C4H8O
reactant | ethyl ether | 300 ml | C(C)OCC | C4H10O
reactant | H2O | 100 ml | O | H2O
solvent | 1,4-dioxane | 130 ml | O1CCOCC1 | C4H8O2
catalyst | pyridinium p-toluenesulfonate | 2.8 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | 2,2-bis[4-(1-ethoxyethoxy)phenyl]propane | 50.8 g | C(C)OC(C)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OC(C)OCC | C23H32O4
